US06630492B1
2-Methyl-butyric Acid 3,7-Dimethyl-8-[2-(1-methyl-6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester
To a stirred solution of 77 mg (0.2 mmol) 2-methyl-butyric acid 3,7-dimethyl-8-[2-(6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester in 5 ml DMF are added 0.1 g (0.8 mmol) potassium carbonate and 0.1 g (0.8 mmol) methyl iodide. After 2 hours at room temperature the mixture is poured on water. The aqueous phase is separated and extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulfate and the solvent is evaporated in vacuo. The residue is chromatographed over silica gel eluting with hexane/acetone 1/1 to afford the title compound as white powder.

reactant | 2-methyl-butyric acid 3,7-dimethyl-8-[2-(6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester | 0.2 mmol, 77 mg | CC1CC(C2C(C(C=CC2=C1)C)CCC=1NC(C=CC1)=O)OC(C(CC)C)=O | C24H33NO3
reactant | potassium carbonate | 0.8 mmol, 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.8 mmol, 0.1 g | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-Methyl-butyric Acid 3,7-Dimethyl-8-[2-(1-methyl-6-oxo-1,6-dihydro-pyridin-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl Ester | CC1CC(C2C(C(C=CC2=C1)C)CCC=1N(C(C=CC1)=O)C)OC(C(CC)C)=O | C25H35NO3
